US04317781
n-Propyl formate (264 g.) and granular sodium cyanide (150 g.) were added successively to a stirred suspension of p-hydroxybenzyl alcohol (8310 g.) in N,N-dimethylformamide (148 g.) and the mixture was heated at 67°-68° C. for 1 hour, cooled to 40° C. and poured into water (588 ml.). The mixture was cooled to 20°-25° C., the pH of the mixture was adjusted from 9.5 to 4.0 with 98% formic acid (270 ml.), and the mixture was extracted three times with isobutyl methyl ketone (677 ml, 196 ml. and 196 ml. successively). Each extract was washed twice with water (196 ml. each time) and the combined extracts were dried by azeotropic distillation under reduced pressure at 60°-70° C. There was thus obtained p-hydroxybenzyl cyanide (319 g., 96% yield).

reactant | n-Propyl formate | 264 g | C(=O)OCCC | C4H8O2
reactant | sodium cyanide | 150 g | [C-]#N.[Na+]
reactant | p-hydroxybenzyl alcohol | 8310 g | C1=CC(=CC=C1CO)O | C7H8O2
reactant | water | 588 ml | O | H2O
solvent | N,N-dimethylformamide | 148 g | CN(C=O)C | C3H7NO
solvent | formic acid | 270 ml | C(=O)O | CH2O2
product | p-hydroxybenzyl cyanide | 319 g, 96% yield | OC1=CC=C(CC#N)C=C1 | C8H7NO
